US20010006969A1
2-Allylamino-4-(butylcarbamoyl)amino-7-methylthieno[3,2-d] pyrimidine
122 mg (1.0 mmol) of N,N-dimethylaminopyridine was added to a solution of 306 mg (1.4 mmol) of di-t-butyldicarbonate in acetonitrile at room temperature, followed by stirring 20 minutes. After 220 mg (1.0 mmol) of 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine was added to the reaction solution, the mixture was stirred at room temperature for 2 hours. Further, 102 mg (1.4 mmol) of n-butylamine was added thereto, followed by heating under reflux for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=½] to give 140 mg (yield: 43.9%) of the title compound.

reactant | di-t-butyldicarbonate | 1.4 mmol, 306 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-allylamino-4-amino-7-methylthieno[3,2-d]pyrimidine | 1.0 mmol, 220 mg | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)N | C10H12N4S
reactant | n-butylamine | 1.4 mmol, 102 mg | C(CCC)N | C4H11N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Allylamino-4-(butylcarbamoyl)amino-7-methylthieno[3,2-d] pyrimidine | 140 mg, yield: 43.9% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(NCCCC)=O | C15H21N5OS
